US07687515B2
A: [4-Cyano-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridin-2-yl-methyl]-triphenyl-phosphonium chloride
2-Chloromethyl-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5,c]-pyridine-4-carbonitrile (100 mg, 0.26 mmol) and triphenylphosphine in acetonitrile were heated to 60° C. and stirred overnight. The reaction mixture was concentrated and triturated with ether to give a light yellow solid. MS m/z 607.5 (m).

reactant | 2-Chloromethyl-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5,c]-pyridine-4-carbonitrile | 0.26 mmol, 100 mg | ClCC=1NC2=C(C(=NC(=C2)C2=CC(=C(C=C2)OCC)C(F)(F)F)C#N)N1 | C17H12ClF3N4O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | [4-Cyano-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridin-2-yl-methyl]-triphenyl-phosphonium chloride | [Cl-].C(#N)C1=NC(=CC2=C1N=C(N2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=C(C=C2)OCC)C(F)(F)F | InChI=1S/C35H27F3N4OP.ClH/c1-2-43-32-19-18-24(20-28(32)35(36,37)38)29-21-30-34(31(22-39)40-29)42-33(41-30)23-44(25-12-6-3-7-13-25,26-14-8-4-9-15-26)27-16-10-5-11-17-27;/h3-21H,2,23H2,1H3,(H,41,42);1H/q+1;/p-1
